US07781478B2
1-Ethyl-6-methoxy-1H-indole-3-carboxylic acid (250 mg, 1.14 mmol) is suspended in a solution of CH2Cl2 (12.5 mL) and DMF (10 μL). Oxalyl chloride (230 μL, 2.64 mmol) is added, and the reaction mixture is stirred for 1 hour at room temperature. This mixture is then slowly poured into a rapidly stirring solution of concentrated NH4OH (5 mL). This is then partitioned in H2O and EtOAc. The residue from the ethyl acetate layer is triturated with acetone to yield 1-ethyl-6-methoxy-1H-indole-3-carboxamide (134 mg, 54%) as a white solid.

reactant | 1-Ethyl-6-methoxy-1H-indole-3-carboxylic acid | 1.14 mmol, 250 mg | C(C)N1C=C(C2=CC=C(C=C12)OC)C(=O)O | C12H13NO3
reactant | CH2Cl2 | 12.5 mL | C(Cl)Cl | CH2Cl2
reactant | Oxalyl chloride | 2.64 mmol, 230 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | DMF | 10 μL | CN(C)C=O | C3H7NO
product | 1-ethyl-6-methoxy-1H-indole-3-carboxamide | 134 mg, 54% | C(C)N1C=C(C2=CC=C(C=C12)OC)C(=O)N | C12H14N2O2
